US05141951
13.1 Preparation of 5-(4-n-hexylphenyl)-1H-pyrazol-4-yl-propionohydroxamic acid [Process step a)]
10 g 5-(4-n-hexylphenyl)-1H-pyrazol-4-yl-propionic acid ethyl ester dissolved in 40 ml methanol are added rapidly to a solution of 4.2 g hydroxylamine hydrochloride and 5 g KOH in 40 ml methanol, pre-cooled to -5° C. After reaching room temperature, the reaction mixture is stirred for 24 hrs. The mixture is filtered and the solvent concentrated under vacuum. The residue is dissolved in ethyl acetate, washed with water, dried with Na2SO4 and solvent removed by evaporation under vacuum. The title compound is crystallised from ethyl ether/hexane: m.p.=150°-155° C.

reactant | 5-(4-n-hexylphenyl)-1H-pyrazol-4-yl-propionic acid ethyl ester | 10 g | C(C)OC(C(C)C=1C=NNC1C1=CC=C(C=C1)CCCCCC)=O | C20H28N2O2
reactant | hydroxylamine hydrochloride | 4.2 g | Cl.NO
reactant | KOH | 5 g | [OH-].[K+]
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 5-(4-n-hexylphenyl)-1H-pyrazol-4-yl-propionohydroxamic acid | C(CCCCC)C1=CC=C(C=C1)C1=C(C=NN1)C(C(=O)NO)C | C18H25N3O2
